US07488740B2
11. 4-Chloro-7-[3-(trifluoromethyl)pyridin-2-yl]quinoline
Reflux 7-[3-(trifluoromethyl)pyridin-2-yl]quinolin-4-ol (145 mg) for 2 hours in POCl3 (2 mL). Evaporate the solvent, then carefully neutralize with saturated NaHCO3, and extract with EtOAc. Dry-over Na2SO4, concentrate under vacuum to obtain the title compound.

reactant | 7-[3-(trifluoromethyl)pyridin-2-yl]quinolin-4-ol | 145 mg | FC(C=1C(=NC=CC1)C1=CC=C2C(=CC=NC2=C1)O)(F)F | C15H9F3N2O
reactant | POCl3 | 2 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-7-[3-(trifluoromethyl)pyridin-2-yl]quinoline | ClC1=CC=NC2=CC(=CC=C12)C1=NC=CC=C1C(F)(F)F | C15H8ClF3N2
